US07141580B2
Step 3. 2-[4-(5,6-dimethyl-1H-benzimidazol-1-yl)phenyl]ethyl (4-methylphenyl)sulfonylcarbamate
A mixture of 4-{2-[({[(4-methylphenyl)sulfonyl]amino}carbonyl)oxy]ethyl}phenylboronic acid (100 mg, 0.28 mmol), 5,6-dimethylbenzimidazole (40 mg, 0.28 mmol), Cu(OAc)2 (60 mg, 0.33 mmol), triethylamine (115 μl, 0.83 mmol), MS4A (100 mg), and CH2Cl2 (4 ml) was stirred at room temperature for 1 week. After filtration through a bed of celite, the filtrate was diluted with CH2Cl2, and washed with water. The organic fraction was dried over MgSO4 and filtered. After concentration under reduced pressure, the residue was purified by preparative TLC (CH2Cl2/MeOH=10/1) to afford 28 mg (22%) of the title compound.

reactant | 4-{2-[({[(4-methylphenyl)sulfonyl]amino}carbonyl)oxy]ethyl}phenylboronic acid | 0.28 mmol, 100 mg | CC1=CC=C(C=C1)S(=O)(=O)NC(=O)OCCC1=CC=C(C=C1)B(O)O | C16H18BNO6S
reactant | 5,6-dimethylbenzimidazole | 0.28 mmol, 40 mg | CC1=CC2=C(N=CN2)C=C1C | C9H10N2
reactant | triethylamine | 0.83 mmol, 115 μl | C(C)N(CC)CC | C6H15N
catalyst | Cu(OAc)2 | 0.33 mmol, 60 mg | CC(=O)[O-].CC(=O)[O-].[Cu+2]
solvent | CH2Cl2 | 4 ml | C(Cl)Cl | CH2Cl2
product | 2-[4-(5,6-dimethyl-1H-benzimidazol-1-yl)phenyl]ethyl (4-methylphenyl)sulfonylcarbamate | 28 mg, 22% | CC1=CC=C(C=C1)S(=O)(=O)NC(OCCC1=CC=C(C=C1)N1C=NC2=C1C=C(C(=C2)C)C)=O | C25H25N3O4S
